US04377587
N-(1'-methoxycarbonylethyl)-N-methoxyacetyl-2,6-dimethyl-3-nitroaniline
15.2 g of methoxyacetyl chloride are added dropwise at room temperature to 32 g of N-(1'methoxycarbonylethyl)-2,6-dimethyl-3-nitroaniline. After the weakly exothermic reaction has subsided, the reaction solution is stirred for 20 hours at room temperature. The solvent is then removed and the dark red oily residue is distilled in a high vacuum. Compound 28 distills at a temperature of 170°-174° C. and a pressure of 0.07 mbar as a pale yellow oil.

reactant | methoxyacetyl chloride | 15.2 g | COCC(=O)Cl | C3H5ClO2
reactant | N-(1'methoxycarbonylethyl)-2,6-dimethyl-3-nitroaniline | COC(=O)C(C)NC1=C(C(=CC=C1C)[N+](=O)[O-])C | C12H16N2O4
product | N-(1'-methoxycarbonylethyl)-N-methoxyacetyl-2,6-dimethyl-3-nitroaniline | COC(=O)C(C)N(C1=C(C(=CC=C1C)[N+](=O)[O-])C)C(COC)=O | C15H20N2O6
